US08017779B2
7-Bromo-2-ethoxymethyl-1-(isopropoxypropyl)-1H-imidazo[4,5-c]quinoline (1.0 g), (+)-2,2′-bis(diphenylphosphino)-1,1′binaphthyl (BINAP, 0.089 g), tris(dibenzylideneacetone)dipalladium(0) (0.074 g), sodium tert-butoxide (0.320 g,), morpholine (0.230 mL,) and toluene (4.8 mL) were added to a scintillation vial. The vial was sequentially flushed with nitrogen, sealed with a Teflon-lined cap, placed in an oil bath, and heated at 80° C. for 16 hours. The reaction mixture was cooled to ambient temperature and then transferred to a round bottom flask. The volatiles were removed under reduced pressure and the residue was purified by column chromatography on a Biotage Horizon™ High Performance Flash Chromatography instrument using a silica gel cartridge. The purification was carried out eluting with chloroform:CMA in a gradient from 98:2 to 75:25. 2-Ethoxymethyl-1-(3-isopropoxypropyl)-7-(morpholin-4-yl)-1H-imidazo[4,5-c]quinoline was isolated as a red-orange oil (1.32 g).

reactant | 7-Bromo-2-ethoxymethyl-1-(isopropoxypropyl)-1H-imidazo[4,5-c]quinoline | 1.0 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCOC(C)C)COCC | C19H24BrN3O2
reactant | (+)-2,2′-bis(diphenylphosphino)-1,1′binaphthyl | 0.089 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 0.320 g | CC(C)([O-])C.[Na+]
reactant | morpholine | 0.230 mL | N1CCOCC1 | C4H9NO
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.074 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 4.8 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Ethoxymethyl-1-(3-isopropoxypropyl)-7-(morpholin-4-yl)-1H-imidazo[4,5-c]quinoline | C(C)OCC=1N(C2=C(C=NC=3C=C(C=CC23)N2CCOCC2)N1)CCCOC(C)C | C23H32N4O3
